US04614798
Preparation of 2,6-Dimethylphenylisothiocyanate
Briefly, this preparation involves first adding the acetamide to a suspension of sodium hydride in an organic solvent, preferably a N,N-dimethylacetamide/benzene solvent system. The cessation of hydrogen indicates completion of the reaction after which the reaction mixture is cooled and carbon disulfide added slowly. When tetrahydrofuran is the solvent employed, a reaction time of approximately 1.5 hours is required to provide yields in excess of 80 percent while when a mixture of N,N-dimethylacetamide/toluene is used, yields in excess of 80 percent are obtained in approximately 20 minutes.

reactant | acetamide | C(C)(=O)N | C2H5NO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | carbon disulfide | C(=S)=S | CS2
reactant | N,N-dimethylacetamide benzene | CN(C(C)=O)C.C1=CC=CC=C1
solvent | N,N-dimethylacetamide toluene | CN(C(C)=O)C.C1(=CC=CC=C1)C
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,6-Dimethylphenylisothiocyanate | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
